US05712267
100(1) 4-Nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-2-[4-(4-nitrobenzyloxycarbonylamidino)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate
290 μl of diphenylphosphoric acid chloride and 44 μl of diisopropylethylamine were added dropwise, whilst ice-cooling, to a solution of 471 mg of 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 5 ml of dry acetonitrile, and the resulting mixture was stirred at the same temperature for 1 hour. At the end of this time, a solution of 910 mg of (2S,4S)-4-mercapto-2-[4-(4-nitrobenzyloxycarbonylamidino)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine trifluoromethanesulfonate (prepared as described in Preparation 92) in 7 ml of dry acetonitrile and 500 μl of diisopropylethylamine were added dropwise, whilst ice-cooling, to the mixture, and the resulting mixture was left to stand overnight at the same temperature. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the resulting residue was diluted with ethyl acetate, after which the mixture was washed with an aqueous solution of sodium hydrogencarbonate, with water and with an aqueous solution of sodium chloride. The ethyl acetate layer was dehydrated over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to silica gel column chromatography [silica gel 60 (Art. 9385), manufactured by Merck, 150 ml], eluted with mixtures of ethyl acetate and acetonitrile in proportions of 8:2, 7:3 and 6:4, in that order. The fractions containing the desired compound were collected and concentrated by evaporation under reduced pressure, to obtain 691 mg of the title compound, as an amorphous powder.

reactant | diphenylphosphoric acid chloride | 290 μl | C1(=CC=CC=C1)[ClH]P(=O)(Cl)[ClH]C1=CC=CC=C1 | C12H12Cl3OP
reactant | 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 471 mg | O[C@H](C)[C@@H]1[C@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | (2S,4S)-4-mercapto-2-[4-(4-nitrobenzyloxycarbonylamidino)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine trifluoromethanesulfonate | 910 mg | FC(S(=O)(=O)O)(F)F.S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C(NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | diisopropylethylamine | 500 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | diisopropylethylamine | 44 μl | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-Nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-2-[4-(4-nitrobenzyloxycarbonylamidino)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate | 691 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2CCN(CC2)C(NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=N)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C43H45N9O15S
